US06235731B1
1) Synthesis of N-(1-benzylpiperidin-4-ylmethyl)-5-thia-1,8b-diazaacenaphthylene-4-carboxamide
To a solution of 0.58 g (1.5 mM) of N-(piperidin-4-ylmethyl)-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride and 1.0 ml (7.5 mM) of triethylamine in ethanol was added 0.19 ml (1.6 mM) of benzyl bromide at room temperature, and the mixture was refluxed under nitrogen for 6 hours. The solvent was then distilled off under reduced pressure and the residue was diluted with water and extracted with methylene chloride. The organic layer was washed with saturated aqueous solution of sodium chloride and dried over MgSO4. The resulting crude product was purified by column chromatography (methanol/ethyl acetate 40%) to provide the title compound.

reactant | N-(piperidin-4-ylmethyl)-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride | 1.5 mM, 0.58 g | Cl.Cl.N1CCC(CC1)CNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32
reactant | triethylamine | 7.5 mM, 1.0 ml | C(C)N(CC)CC | C6H15N
reactant | benzyl bromide | 1.6 mM, 0.19 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | ethanol | C(C)O | C2H6O
product | N-(1-benzylpiperidin-4-ylmethyl)-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | C(C1=CC=CC=C1)N1CCC(CC1)CNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | C23H24N4OS
